US06815458B2
Reaction-step 1: 4-[(2-Thienylmethyl)amino]-1-methylpiperidine (50ELH66A)
Starting materials: 1-Methyl-4-piperidone (0.5 g, 4.4 mmol, 1.0 eq.), 2-thienylmethylamine(0.52 g, 1.0 eq.).

reactant | 1-Methyl-4-piperidone | 4.4 mmol, 0.5 g, 1.0 eq. | CN1CCC(CC1)=O | C6H11NO
reactant | 2-thienylmethylamine | 0.52 g, 1.0 eq. | S1C(=CC=C1)CN | C5H7NS
product | 4-[(2-Thienylmethyl)amino]-1-methylpiperidine | S1C(=CC=C1)CNC1CCN(CC1)C | C11H18N2S
